US07812160B2
The thus obtained methyl {4-(dimethylamino)-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetate was dissolved in THF (6 mL) and treated with 1N NaOH (3 mL). The biphashic reaction mixture was stirred at room temperature for 14 hours and then Et2O was added. The organic layer was siphoned off and the remaining aqueous layer was neutralized with 6N HCl. The separated solids was collected by suction, triturated with diisopropyl ether, and filtered to give {4-(dimethylamino)-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetic acid (0.047 g, 36% yield).

reactant | methyl {4-(dimethylamino)-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetate | CN(C1=NC(=NC=C1CC(=O)OC)CC1=CC=C(C=C1)NC(=O)C1=CC2=CC=CC=C2C=C1)C | C27H26N4O3
reactant | NaOH | 1N, 3 mL | [OH-].[Na+]
reactant | Et2O | CCOCC | C4H10O
reactant | HCl | 6N | Cl | ClH
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | {4-(dimethylamino)-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetic acid | 0.047 g, 36% yield | CN(C1=NC(=NC=C1CC(=O)O)CC1=CC=C(C=C1)NC(=O)C1=CC2=CC=CC=C2C=C1)C | C26H24N4O3
